US06635657B1
Preparation of 5-Acetyl-N-(5-chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide Hydrochloride
Using methods substantially equivalent to those described in Example 244-F, 5-acetyl-N-(5-chloropyridin-2-yl)-2-(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide hydrochloride (48 mg, 67%) was prepared from 5-acetyl-N-(5-chloropyridin-2-yl)-2-[(4-piperidinylcarbonyl)amino]-benzamide trifluoroacetate. To a stirring solution of the purified product in dichloromethane was added 1.0 N hydrochloric acid in diethyl ether until precipitate formed. The mixture was filtered to give the title compound.

reactant | benzamide hydrochloride | 48 mg | Cl.C(C1=CC=CC=C1)(=O)N
reactant | 5-acetyl-N-(5-chloropyridin-2-yl)-2-[(4-piperidinylcarbonyl)amino]-benzamide trifluoroacetate | FC(C(=O)O)(F)F.C(C)(=O)C=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCNCC1
reactant | hydrochloric acid | 1.0 N | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-Acetyl-N-(5-chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide Hydrochloride | Cl.C(C)(=O)C=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCN(CC1)C(C)C | InChI=1S/C23H27ClN4O3.ClH/c1-14(2)28-10-8-16(9-11-28)22(30)26-20-6-4-17(15(3)29)12-19(20)23(31)27-21-7-5-18(24)13-25-21;/h4-7,12-14,16H,8-11H2,1-3H3,(H,26,30)(H,25,27,31);1H
